US08445509B2
Production of ethyl 5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 64 and using ethyl 5-ethyl-2-(4-fluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.1 g, 11 mmol) and methyl trifluoromethanesulfonate (3.7 mL) as starting materials, the title compound (1.9 g, 57%) was obtained as a pale-yellow solid.

reactant | ethyl 5-ethyl-2-(4-fluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 11 mmol, 3.1 g | C(C)C1=C(C(N(N1)C1=CC=C(C=C1)F)=O)C(=O)OCC | C14H15FN2O3
reactant | methyl trifluoromethanesulfonate | 3.7 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 1.9 g, 57% | C(C)C1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C15H17FN2O3
